US07432286B1
A solution of 2-aminomethyl-thiophene (2.1 ml, 20.5 mmol) in CHCl3 (25 ml) is treated with phthalic anhydride (3.0 g, 20.5 mmol) at r.t. for 5 min, then at reflux for 20 min, whereupon a white powder precipitated out. This powder is collected by filtration and dried in vacuo to give N-thiophen-2-ylmethyl-phthalamic acid (4.42 g, 83%) as white crystals. An aliquot of this phthalamic acid (2.13 g, 8.12 mmol) is dissolved in MeOH (12 ml), treated with H2SO4 (440 μl, 8.25 mmol) and heated to reflux for 1.5 h, whereupon a white powder precipitated out. This powder is collected by filtration and dried in vacuo to give 1.38 g (70%) of the title phthalimide as white crystals: 1H NMR (DMSO-d6) δ7.92-7.82 (m., 4H), 7.42 (dd, J=5.1, 1.2 Hz, 1H), 7.08 (dd, J=4.0, 0.8 Hz, 1H), 6.95 (dd, J=5.1, 3.5 Hz, 1H), 4.92 (s, 2H).

reactant | 2-aminomethyl-thiophene | 20.5 mmol, 2.1 ml | NCC=1SC=CC1 | C5H7NS
reactant | phthalic anhydride | 20.5 mmol, 3.0 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | CHCl3 | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | N-thiophen-2-ylmethyl-phthalamic acid | 4.42 g, 83% | S1C(=CC=C1)CNC(C=1C(C(=O)O)=CC=CC1)=O | C13H11NO3S
